US06432981B1
Step A: 2-Ethylindazole
To a solution of indazole (6.2 g, 52.5 mmol) in DMF (30 mL) was added sodium hydride (60% dispersion in mineral oil, 3.0 g, 75.0 mmol) at 0° C. After stirring at 0° C. for 20 min., ethyl iodide (5 mL, 62.5 mmol) was added dropwise at 0° C. The mixture was stirred at rt for 1 h, and then partitioned between ethyl acetate and water. The aqueous layer was extracted with ethyl acetate (3×). The combined organic phases were washed with brine, and dried over anhydrous magnesium sulfate. TLC indicated that a 2:1 mixture of two isomers was formed. The mixture was purified by flash chromatography (hexanes:ethyl acetate=4:1, then 1:1) to give 2.34 g of the title compound as a viscous oil (slow moving isomer).

reactant | indazole | 52.5 mmol, 6.2 g | N1N=CC2=CC=CC=C12 | C7H6N2
reactant | sodium hydride | 75.0 mmol, 3.0 g | [H-].[Na+]
reactant | ethyl iodide | 62.5 mmol, 5 mL | C(C)I | C2H5I
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 2-Ethylindazole | 2.34 g | C(C)N1N=C2C=CC=CC2=C1 | C9H10N2
